US07723345B2
6.40. Synthesis of (S)-2-Amino-3-(4-(2-amino-6-(naphthalen-2-ylmethylthio)pyrimidin-4-yl)phenyl)propanoic acid
4-Chloro-6-(naphthalen-2-ylmethylthio)pyrimidin-2-amine (0.1 g, 0.331 mmol), L-p-boronophenylalanine (83 mg, 0.397 mmol), Pd(PPh3)2Cl2 (14 mg, 0.020 mmol), Na2CO3 (77 mg, 0.729 mmol), MeCN (2.5 ml) and water (2.5 ml) were heated at 150° C. for 5 minutes in a microwave. The mixture was concentrated and purified via prep HPLC to give 57 mg of the title compound. M+1=431; 1H NMR (CD3OD) δ 7.85 (s, 1H), 7.79 (d, 2H), 7.72 (d, 3H), 7.46 (dd, 1H), 7.35 (m, 4H), 6.95 (s, 1H), 4.58 (s, 2H), 4.17 (m, 1H), 3.26 (m, 1H), 3.11 (m, 1H).

reactant | 4-Chloro-6-(naphthalen-2-ylmethylthio)pyrimidin-2-amine | 0.331 mmol, 0.1 g | ClC1=NC(=NC(=C1)SCC1=CC2=CC=CC=C2C=C1)N | C15H12ClN3S
reactant | Na2CO3 | 0.729 mmol, 77 mg | C(=O)([O-])[O-].[Na+].[Na+]
reactant | MeCN | 2.5 ml | CC#N | C2H3N
catalyst | Pd(PPh3)2Cl2 | 0.020 mmol, 14 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | water | 2.5 ml | O | H2O
product | (S)-2-Amino-3-(4-(2-amino-6-(naphthalen-2-ylmethylthio)pyrimidin-4-yl)phenyl)propanoic acid | 57 mg | N[C@H](C(=O)O)CC1=CC=C(C=C1)C1=NC(=NC(=C1)SCC1=CC2=CC=CC=C2C=C1)N | C24H22N4O2S
